US07622583B2
4-Chloro-N-[5-chloro-2-(pyridin-4-ylsulfanyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
To a solution of 5-chloro-2-(pyridin-4-ylsulfanyl)-pyridin-3-ylamine (100 mg, 0.42 mmol) in anhydrous pyridine (0.5 mL) was added drop wise a solution of 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride (117 mg, 0.42 mmol) in pyridine (0.25 mL). The resulting mixture was stirred at room temperature for 2 days. The reaction mixture was concentrated under reduced pressure and diluted with EtOAc and brine. The aqueous portion was separated and extracted with EtOAc. The combined extracts were dried (Na2SO4) filtered and concentrated under reduced pressure. The residue was treated with 0.3 M aqueous NaOH and washed with CH2Cl2. The aqueous portion was acidified with conc HCl to pH 3 and extracted with EtOAc. The combined extracts were dried (Na2SO4) filtered and concentrated under reduced pressure. The residue was separated by preparative HPLC (20→80% gradient of ACN-water) and pure product fractions were lyophilized to provide pure product as a solid. Mass spectrum m/z: 480.0 (M+H).

reactant | 5-chloro-2-(pyridin-4-ylsulfanyl)-pyridin-3-ylamine | 0.42 mmol, 100 mg | ClC=1C=C(C(=NC1)SC1=CC=NC=C1)N | C10H8ClN3S
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | 0.42 mmol, 117 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-N-[5-chloro-2-(pyridin-4-ylsulfanyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)SC1=CC=NC=C1)C(F)(F)F | C17H10Cl2F3N3O2S2
